US06872731B2
3′-(7-Formylimidazo[1,2-α]pyridin-3-yl)biphenyl-2-carbonitrile
Trifluoromethanesulfonic acid 2′-cyanobiphenyl-3-yl ester (0.55 g, 1.66 mmol), potassium acetate (0.49 g, 4.98 mmol) and bis(pinacolato)diboron (0.55 g, 2.16 mmol) were dissolved in 1,4-dioxane (10 ml) and the mixture degassed with N2 for 15 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (41 mg, 0.05 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (28 mg, 0.05 mmol) were then added and the mixture heated at 85° C. for 18 h. The mixture was cooled to ambient temperature and partitioned between ethyl acetate (150 ml) and water (50 ml). The organic layer was washed with brine (50 ml), dried over anhydrous sodium sulfate and evaporated in vacuo to give 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as a black oil (0.51 g, 100%). This oil was dissolved in sufficient N,N-dimethylacetamide to give a 0.5 M stock solution. 3-Bromoimidazo[1,2-α]pyridine-7-carboxaldehyde (0.70 g, 3.11 mmol), potassium phosphate (0.99 g, 4.67 mmol) and 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile (1.80 g, 5.90 mmol) were dissolved in N,N-dimethylacetamide (6 ml) and the mixture degassed with N2 for 15 min. Tetrakis(triphenylphosphine)palladium(0) (0.14 g, 0.12 mmol) was added and the mixture heated at 80° C. for 18 h. The mixture was allowed to cool to room temperature, diluted with water (20 ml) and saturated sodium hydrogencarbonate solution (20 ml), then extracted with ethyl acetate (3×75 ml). The combined organic fractions were washed with brine (40 ml), dried over anhydrous sodium sulfate and evaporated to give a black oil. The oil was purified by silica gel chromatography eluting with dichloromethane and 1% conc. ammonia on a gradient of methanol (1-3%). The solid obtained was triturated with diethyl ether which gave the title compound (0.33 g, 29%) as a yellow powder. 1H NMR (400 MHz, CDCl3) δH 7.41 (1H, dd, J 7 and 1), 7.52 (1H, dt, J 8 and 1), 7.58 (1H, d, J 7), 7.62-7.73 (4H, m), 8.81-8.44 (2H, m), 7.98 (1H, s), 8.18 (1H, d, J 1), 8.63 (1H, d, J 7), 10.03 (1H, s); m/z (ES+) 324 (M++H).

reactant | 3-Bromoimidazo[1,2-α]pyridine-7-carboxaldehyde | 3.11 mmol, 0.70 g | BrC1=CN=C2N1C=CC(=C2)C=O | C8H5BrN2O
reactant | potassium phosphate | 4.67 mmol, 0.99 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 5.90 mmol, 1.80 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 6 ml | CN(C(C)=O)C | C4H9NO
solvent | water | 20 ml | O | H2O
solvent | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.12 mmol, 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-(7-Formylimidazo[1,2-α]pyridin-3-yl)biphenyl-2-carbonitrile | 0.33 g, 29% | C(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C21H13N3O
